US05298508
Preparation of ADAC-NCS, compound 26b
ADAC, 25 mg, 43 micromol, and 6 microliters triethylamine were dissolved in 1 ml dimethylformamide with warming. After cooling in an ice bath, 3.9 microl, 51 micromol of distilled thiophosgene was added with stirring. Water and saturated sodium chloride were added to obtain a white precipitate, which was dried in vacuo over sodium hydroxide. The yield was 13 mg, or 48%, of product. IR peaks appeared at 3460, 2120, 1640, 1600, 1515, 1480, 1420, 1100, 1060, and 1030 cm-1. Thin layer chromatography and the Cf plasma desorption spectrum was consistent with the assigned structure and showed no evidence of residual ADAC.

reactant | ADAC | C1=CC(=CC(=C1)NC(=O)CC2=CC=C(C=C2)NC3=NC=NC4=C3N=CN4[C@H]5[C@@H]([C@@H]([C@H](O5)CO)O)O)CC(=O)NCCN | C28H32N8O6
reactant | triethylamine | 6 microliters | C(C)N(CC)CC | C6H15N
reactant | thiophosgene | 51 micromol | C(=S)(Cl)Cl | CCl2S
reactant | sodium chloride | [Cl-].[Na+]
reactant | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | ADAC NCS | C1=CC(=CC(=C1)NC(=O)CC2=CC=C(C=C2)NC3=NC=NC4=C3N=CN4[C@H]5[C@@H]([C@@H]([C@H](O5)CO)O)O)CC(=O)NCCN.C1CC(=O)N(C1=O)Cl | InChI=1S/C28H32N8O6.C4H4ClNO2/c29-8-9-30-21(38)12-17-2-1-3-19(10-17)34-22(39)11-16-4-6-18(7-5-16)35-26-23-27(32-14-31-26)36(15-33-23)28-25(41)24(40)20(13-37)42-28;5-6-3(7)1-2-4(6)8/h1-7,10,14-15,20,24-25,28,37,40-41H,8-9,11-13,29H2,(H,30,38)(H,34,39)(H,31,32,35);1-2H2/t20-,24-,25-,28-;/m1./s1
